US07867980B2
5-(5-Methyl-2-nitrophenyl)-1,3,4-thiadiazole-2-thiol
Carbon bisulfide (4 ml) was added to a solution of 1.95 g (10 mmol) of 5-methyl-2-nitrobenzohydrazide in methanol (8 ml). A solution of 616 mg (11 mmol) of potassium hydroxide in methanol (10 ml) was then added thereto, and the mixture was stirred at room temperature for 6 hr. The precipitated crystal was collected by filtration and was dried. The dried crystal was then added dropwise to concentrated sulfuric acid (5 ml), and the mixture was stirred at room temperature for 3 hr. The reaction solution was added dropwise to 100 ml of iced water. The resultant precipitate was collected by filtration and was dried to give 1.28 g (yield 51%) of the title compound.

reactant | Carbon bisulfide | 4 ml | [SH-].[C+4].[SH-].[SH-].[SH-]
reactant | 5-methyl-2-nitrobenzohydrazide | 10 mmol, 1.95 g | CC=1C=CC(=C(C(=O)NN)C1)[N+](=O)[O-] | C8H9N3O3
reactant | potassium hydroxide | 11 mmol, 616 mg | [OH-].[K+]
solvent | methanol | 8 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 5-(5-Methyl-2-nitrophenyl)-1,3,4-thiadiazole-2-thiol | 1.28 g, yield 51% | CC=1C=CC(=C(C1)C1=NN=C(S1)S)[N+](=O)[O-] | C9H7N3O2S2
